US09212186B2
N4-methyl-N2-(1-methyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)-5-(trifluoromethyl)pyrimidine-2,4-diamine
A mixture of 1-methyl-2,3-dihydro-1H-pyrazolo[1,5-a]imidazol-7-amine (91 mg, 0.66 mmol), 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine (90 mg, 0.44 mmol), cesium carbonate (287 mg, 0.88 mmol), palladium acetate (2 mg, 0.009) and Brettphos (7 mg, 0.013 mmol) in 1,4-dioxane (1.5 mL) was degassed by bubbling nitrogen through the mixture for 5 min. The reaction tube was sealed and the mixture was heated to 100° C. for 18 h. The mixture was cooled, diluted with ethyl acetate (5 mL) and washed with water (2×5 mL). The aqueous washes were combined and extracted with EtOAc (5 mL). The organic extracts were combined and filtered through a hydrophobic frit. The solvent was removed in vacuo and the residue was purified by preparative HPLC to give the title compound (19 mg, 14%). 1H NMR (400 MHz, DMSO) δ 8.64† (br s, 1H), 8.32* (br s, 1H), 8.05 (s, 1H), 7.30† (br s, 1H), 7.11* (br s, 1H), 6.91 (s, 1H), 4.06 (t, J=7.6 Hz, 2H), 3.65 (t, J=7.6 Hz, 2H), 2.86 (d, J=4.4 Hz, 3H), 2.69 (s, 3H)†and * refer to different rotamers (arbitrarily assigned). LC-MS (Method C): m/z=314 (M+H)+, 2.78 min, 98.7% purity.

reactant | 1-methyl-2,3-dihydro-1H-pyrazolo[1,5-a]imidazol-7-amine | 0.66 mmol, 91 mg | CN1C=2N(CC1)N=CC2N | C6H10N4
reactant | 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine | 0.44 mmol, 90 mg | ClC1=NC=C(C(=N1)NC)C(F)(F)F | C6H5ClF3N3
reactant | cesium carbonate | 0.88 mmol, 287 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Brettphos | 0.013 mmol, 7 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N4-methyl-N2-(1-methyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)-5-(trifluoromethyl)pyrimidine-2,4-diamine | 19 mg, 14% | CNC1=NC(=NC=C1C(F)(F)F)NC1=C2N(N=C1)CCN2C | C12H14F3N7
